US06930208B2
0.295 g (0.9 mmol) of 2-chloro-3-(methylcarbonylmethoxy)-4-ethylsulfonylbenzoic acid, 0.113 g (1.0 mmol) of cyclohexane-1,3-dione, 0.180 g (0.9 mmol) of N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride and 0.001 g of dimethyl-aminopyridine were stirred in 25 ml of CH2Cl2 at RT for 2 h. The mixture was then diluted with CH2Cl2 and washed with 0.5 N HCl, with water, with saturated NaHCO3 solution and again with water. The combined organic phases were dried over Na2SO4 and then evaporated to dryness, giving 3-oxo-1-cyclohexenyl 2-chloro-3-(methylcarbonylmethoxy)-4-ethylsulfonylbenzoate in the form of a brown resin which was sufficiently pure for the subsequent reaction.

reactant | 2-chloro-3-(methylcarbonylmethoxy)-4-ethylsulfonylbenzoic acid | 0.9 mmol, 0.295 g | ClC1=C(C(=O)O)C=CC(=C1OCC(=O)C)S(=O)(=O)CC | C12H13ClO6S
reactant | cyclohexane-1,3-dione | 1.0 mmol, 0.113 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride | 0.9 mmol, 0.180 g | Cl.CN(CCCN=C=NCC)C
reactant | dimethyl-aminopyridine | 0.001 g | CC1=C(C(=NC=C1)N)C | C7H10N2
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | 3-oxo-1-cyclohexenyl 2-chloro-3-(methylcarbonylmethoxy)-4-ethylsulfonylbenzoate | ClC1=C(C(=O)OC2=CC(CCC2)=O)C=CC(=C1OCC(=O)C)S(=O)(=O)CC | C18H19ClO7S
